US05866684
1.5 g (4.62 mmol) of 4,4-difluoro-L-norvaline p-toluenesulphonate were dissolved in dimethylformamide. 1.71 g (7.85 mmol) of di-tert-butyl dicarbonate and 3.23 ml (23.25 mmol) of triethylamine were added and the solution was stirred at 60° C. for 3 hours. The solution was evaporated and the residue was partitioned between ethyl acetate and 2M hydrochloric acid. The organic layer was dried over anhydrous sodium sulphate and evaporated. The resulting oil was purified by chromatography on silica gel using ethyl acetate for the elution. There were obtained 1.16 g of N-(tert-butoxycarbonyl)-4,4-difluoro-L-norvaline as an orange oil which was used directly in the next step.

reactant | 4,4-difluoro-L-norvaline p-toluenesulphonate | 4.62 mmol, 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.FC(C[C@H](N)C(=O)O)(C)F
reactant | di-tert-butyl dicarbonate | 7.85 mmol, 1.71 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 23.25 mmol, 3.23 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(tert-butoxycarbonyl)-4,4-difluoro-L-norvaline | 1.16 g | C(C)(C)(C)OC(=O)N[C@@H](CC(C)(F)F)C(=O)O | C10H17F2NO4
